US08461185B2
Step B: 3-bromo-N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzamide
To a solution of 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoic acid hydrochloride (0.476 g, 1.24 mmol) in N,N-dimethylformamide (6 mL) were added (1R)-1-(5-fluoropyridin-2-yl)ethanamine hydrochloride (0.330 g, 1.55 mmol), EDC (416 mg, 2.17 mmol), HOAT (0.051 g, 0.372 mmol) and triethylamine (0.865 mL, 6.20 mmol). The reaction mixture was stirred at ambient temperature for 18 h. Saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (50% hexanes/ethyl acetate→0% hexanes/ethyl acetate) gave the title compound (547 mg). MS 468.9 (M+1).

reactant | 3-bromo-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzoic acid hydrochloride | 1.24 mmol, 0.476 g | Cl.BrC=1C=C(C(=O)O)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1
reactant | (1R)-1-(5-fluoropyridin-2-yl)ethanamine hydrochloride | 1.55 mmol, 0.330 g | Cl.FC=1C=CC(=NC1)[C@@H](C)N
reactant | EDC | 2.17 mmol, 416 mg
reactant | HOAT | 0.372 mmol, 0.051 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 6.20 mmol, 0.865 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-bromo-N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzamide | 547 mg | BrC=1C=C(C(=O)N[C@H](C)C2=NC=C(C=C2)F)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C22H18BrFN4O2
